US09145392B2
4-Amino-6-(4-{4-(4-fluoro-3-trifluoromethyl-phenyl)-1-[2-(2-methoxy-ethylamino)-ethyl]-1H-imidazol-2-yl}-piperidin-1-yl)-pyrimidine-5-carbonitrile (“364”)
The title compound was prepared in an analogous manner as 4-Amino-6-{4-[1-[2-(cyclopropylmethyl-amino)-ethyl]-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile using 2-methoxyethylamine instead of cyclopropylmethylamine. LC-MS: (M+1=533, obsd.=533).

reactant | 4-Amino-6-{4-[1-[2-(cyclopropylmethyl-amino)-ethyl]-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)CCNCC1CC1 | C26H28F4N8
reactant | 2-methoxyethylamine | COCCN | C3H9NO
product | 4-Amino-6-(4-{4-(4-fluoro-3-trifluoromethyl-phenyl)-1-[2-(2-methoxy-ethylamino)-ethyl]-1H-imidazol-2-yl}-piperidin-1-yl)-pyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)CCNCCOC | C25H28F4N8O
